US07348359B2
Methyl crotonate (1.35 ml, 12.8 mmol), tris(dibenzylideneacetone)-dipalladium(0) (106 mg, 0.12 mmol), tri-o-tolylphosphine (1.41 g, 4.6 mmol), and triethylamine (3.22 ml, 23.1 mmol) were added to a solution of 2-amino-5-bromo pyridine (2 g, 11.6 mmol) in DMF (25 mL). The reaction mixture was heated to 120° C. in a nitrogen atmosphere overnight, then cooled to ambient temperature and diluted with ethyl acetate (50 mL). The reaction was filtered, then washed with saturated ammonium chloride solution (2×25 mL), and the organic layer dried over MgSO4 and concentrated in vacuo. The residue was then purified by flash column (2% methanol in dichloromethane) to give 3-(6-amino-pyridin-3-yl)-but-2-enoic acid methyl ester as a yellow solid (904.7 mg, 41%). 1H NMR (250 MHz, DMSO): δ 8.22 (d, 1H, J=3.1), 7.68 (dd, 1H, J=7.5, J=3.1), 6.46 (d, 1H, J=7.5), 6.40 (bs, 2H), 6.11 (d, 1H, J=0.62), 3.65 (s, 3H), 2.48 (d, 3H, J=0.62). MS [EI+] 193 (M+H)+.

reactant | Methyl crotonate | 12.8 mmol, 1.35 ml | C(\C=C\C)(=O)OC | C5H8O2
reactant | tri-o-tolylphosphine | 4.6 mmol, 1.41 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 23.1 mmol, 3.22 ml | C(C)N(CC)CC | C6H15N
reactant | 2-amino-5-bromo pyridine | 11.6 mmol, 2 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.12 mmol, 106 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(6-amino-pyridin-3-yl)-but-2-enoic acid methyl ester | 904.7 mg, 41% | COC(C=C(C)C=1C=NC(=CC1)N)=O | C10H12N2O2
